data/oMe_Silver.jsonl
{"reaction_id": "NR-238_1-c2ccccc2_2-Cc2ccccc2_3-c2ccc(C)cc2_4-c2ccc(Cl)cc2","level": "medium","name": "Steglich Esterification","reactants_smiles": ["c2ccccc2C(=O)O","c2ccc(C)cc2N=C=Nc2ccc(Cl)cc2","Cc2ccccc2O","CN(C)c1ccncc1"],"products_smiles": ["Cc2ccccc2OC(=O)c2ccccc2"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c2ccccc2C(=O)OC(=[NH+]c2ccc(C)cc2)Nc2ccc(Cl)cc2","step_weight": 0,"rationale": "The carboxylate oxygen attacks the electrophilic carbon of DCC due to its strong polarization by adjacent nitrogens, forming a reactive O-acylisourea intermediate stabilized by resonance."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "CN(C)c1cc[n+](cc1)C(=O)c2ccccc2","step_weight": 0,"rationale": "DMAP, a nucleophilic catalyst with an electron-rich pyridine nitrogen, displaces the isourea group via nucleophilic substitution, forming a more electrophilic N-acylpyridinium ion."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CN(C)c1cc[n+](cc1)C([O-])(OCc2ccccc2)c2ccccc2","step_weight": 0,"rationale": "The alcohol oxygen attacks the highly activated acyl carbon of the N-acylpyridinium ion, favored by the strong electron-withdrawing effect of the pyridinium group."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "Cc2ccccc2OC(=O)c2ccccc2","step_weight": 0,"rationale": "Collapse of the tetrahedral intermediate expels DMAP as a good leaving group, driven by restoration of carbonyl conjugation, yielding the ester product."}],"description": "In the Steglich esterification, DCC activates the carboxylic acid to form an O-acylisourea intermediate, which is further activated by DMAP to an N-acylpyridinium species. This highly electrophilic intermediate undergoes nucleophilic attack by the alcohol, followed by elimination to yield the ester under mild conditions."}
{"reaction_id": "NR-105_1-C_2-Br_3-S(=O)(=O)N(C)C_4-N2CCOCC2_5-C(C)C","level": "medium","name": "Hemetsberger-Knittel Indole Synthesis","reactants_smiles": ["[N-]=[N+]=N/C(=C/c1c(N2CCOCC2)c(S(=O)(=O)N(C)C)c(Br)c(C)c1)\\C(=O)OC(C)C"],"products_smiles": ["c1c(C(=O)OC(C)C)[nH]c2c1c(N2CCOCC2)c(S(=O)(=O)N(C)C)c(Br)c2C"],"conditions": "Heat","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[N]/C(=C/c1c(N2CCOCC2)c(S(=O)(=O)N(C)C)c(Br)c(C)c1)\\C(=O)OC(C)C","step_weight": 0,"rationale": "Thermal conditions promote loss of N₂ from the azide due to its excellent leaving group ability, generating an electron-deficient nitrene stabilized by conjugation with the alkene."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "C(C)COC(=O)C1C=C2C(=[n]1)c(c(c(c2N2CCOCC2)S(=O)(=O)N(C)C)Br)C","step_weight": 0,"rationale": "The nitrene undergoes a 6π-electrocyclization driven by conjugation between the alkene and aromatic ring, forming the bicyclic indole skeleton under thermal control."},{"step": 3,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "c1c(C(=O)OC(C)C)[nH]c2c1c(N2CCOCC2)c(S(=O)(=O)N(C)C)c(Br)c2C","step_weight": 0,"rationale": "A sigmatropic hydrogen shift restores aromaticity in the heterocycle, as aromatization provides strong thermodynamic driving force for the rearrangement."}],"description": "Upon heating, the azide undergoes nitrogen extrusion to form a reactive nitrene intermediate, which then cyclizes via electrocyclization to form the indole framework. A subsequent sigmatropic rearrangement aromatizes the ring, yielding the substituted indole product."}
